US06465467B1
2-(4-Chlorophenoxy)ethyl 3-(3-methyl-1-piperazinyl)-2-pyrazinyl Ether
The title compound was prepared according to the procedure described in Example 4, Step 2, starting from 2-chloro-3-[2-(4-chlorophenoxy)ethoxy]pyrazine* (150 mg, 0.53 mmol) and 2-methylpiperazine (256 mg, 2.56 mmol) with the exception that a final extraction step between EtOAc and 5% aqueous NaOH was carried out. This gave 143 mg (77%) of the title product. HRMS m/z calcd for C17H21ClN4O2 (M)+ 348.1353, found 348.1370. Anal. (C17H21ClN4O2) C, H, N.

reactant | 2-chloro-3-[2-(4-chlorophenoxy)ethoxy]pyrazine | ClC1=NC=CN=C1OCCOC1=CC=C(C=C1)Cl | C12H10Cl2N2O2
reactant | 2-methylpiperazine | 2.56 mmol, 256 mg | CC1NCCNC1 | C5H12N2
product | 2-(4-Chlorophenoxy)ethyl 3-(3-methyl-1-piperazinyl)-2-pyrazinyl Ether | CC1CN(CCN1)C=1C(=NC=CN1)OCCOC1=CC=C(C=C1)Cl | C17H21ClN4O2
